US05130323
To a mixture of (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine (356 mg) and nicotinaldehyde (98.6 mg) in methanol (5 ml) were added acetic acid (0.1 ml) and sodium cyanoborohydride (58 mg) and the mixture was stirred at room temperature for 3 hours. Saturated aqueous sodium bicarbonate (20 ml) was added to the solution and the aqueous solution was extracted with chloroform (50 ml). The organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on a silica gel (10 g) column with a mixture of chloroform and methanol (99:1) to give (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]-1-(3-pyridylmethyl)pyrrolidine (340 mg).

reactant | (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine | 356 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@H](NC1)\C=C/CCCC(=O)OC | C17H23ClN2O4S
reactant | nicotinaldehyde | 98.6 mg | C(C1=CN=CC=C1)=O | C6H5NO
reactant | sodium cyanoborohydride | 58 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]-1-(3-pyridylmethyl)pyrrolidine | 340 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@H](N(C1)CC=1C=NC=CC1)\C=C/CCCC(=O)OC | C23H28ClN3O4S
